US04983211
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(4-(5-(methylsulfonyl)-2-pyridylthio)phenyl)cyclohex-2-en-1-one
To a slurry of 4.60 g (0.0107 mol) of 2-propionyl-3-hydroxy-5-(4-(5-(methylsulfonyl)-2-pyridylthio)phenyl)cyclohex-2-en-1-one in 100 mL of methylene chloride and 100 mL of 95 percent ethanol was added 1.35 g (0.0139 mol) of ethoxyamine hydrochloride and 1.31 g (0.0160 mol) of anhydrous sodium acetate. The slurry was stirred at ambient temperature for 12 hours and diluted with 100 mL of methylene chloride and washed thrice with 150 mL portions of water. The organic layer was dried over sodium sulfate and the solvent was removed in vacuo leaving 4.8 g (94.7 percent of theoretical) of the crude product. The product was purified by column chromatography using 5:95 acetone:methylene chloride as eluent and then trituration with diethyl ether affording 2.60 g (51.3 percent of theoretical) of the above named title compound, melting at 125.5°-128.5° C.; 1H NMR (CDCl3): δ 1.05-1.40 (m, 6H, CH3CH2 -- and CH3CH2O--), 2.55-3.55 (m, 11H, ring protons, CH 3 SO2 --, CH3CH2 --), 4.10 (q, 2H, CH3CH2O--), 6.9-8.85 (m, 7H, ArH), 15.0 (broad s, br, 1H, OH).

reactant | 2-propionyl-3-hydroxy-5-(4-(5-(methylsulfonyl)-2-pyridylthio)phenyl)cyclohex-2-en-1-one | 0.0107 mol, 4.60 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)SC1=NC=C(C=C1)S(=O)(=O)C)=O | C21H21NO5S2
reactant | ethoxyamine hydrochloride | 0.0139 mol, 1.35 g | Cl.C(C)ON
reactant | sodium acetate | 0.0160 mol, 1.31 g | C(C)(=O)[O-].[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(4-(5-(methylsulfonyl)-2-pyridylthio)phenyl)cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)SC1=NC=C(C=C1)S(=O)(=O)C)=O | C23H26N2O5S2
